US07220744B2
c) 1-(5-Methanesulfonyl-thiazol-2-yl)-piperazine hydrochloride
Prepared in analogy to example 4 (d) from 4-(5-methanesulfonyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester and hydrogen chloride solution. The crude material was purified by recrystallisation from ether to afford the title compound as a light brown crystalline solid (yield 99%). MS (m/e): 248.1 (M+H+, 100%).

reactant | 4-(5-methanesulfonyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)S(=O)(=O)C | C13H21N3O4S2
reactant | hydrogen chloride | Cl | ClH
product | 1-(5-Methanesulfonyl-thiazol-2-yl)-piperazine hydrochloride | yield 99% | Cl.CS(=O)(=O)C1=CN=C(S1)N1CCNCC1 | InChI=1S/C8H13N3O2S2.ClH/c1-15(12,13)7-6-10-8(14-7)11-4-2-9-3-5-11;/h6,9H,2-5H2,1H3;1H
